US04529698
(A) N-(3-phenyl-2-propenylidene)-4-methoxyaniline
p-Anisidine (12.32 g) is dissolved in 160 ml of methylene chloride and 20 g of anhydrous magnesium sulfate is added. The mixture is cooled in an ice bath and 13.22 g of transcinnamaldehyde is added. The mixture is stirred under nitrogen for 2 hours and then filtered. The filtrate is evaporated to give a solid. The crude product is recrystallized from methylene chloride-petroleum ether to give 20.96 g of the title compound as a solid.

reactant | p-Anisidine | 12.32 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | magnesium sulfate | 20 g | S(=O)(=O)([O-])[O-].[Mg+2]
reactant | transcinnamaldehyde | 13.22 g | C(\C=C\C1=CC=CC=C1)=O | C9H8O
solvent | methylene chloride | 160 ml | C(Cl)Cl | CH2Cl2
product | N-(3-phenyl-2-propenylidene)-4-methoxyaniline | 20.96 g | C1(=CC=CC=C1)C=CC=NC1=CC=C(C=C1)OC | C16H15NO
